* sg13cmos5l current-starved ring-oscillator VCO — simple prototype (the PLL's core)
* 7 CMOS inverter stages in a loop; a control voltage (vctrl) starves the stage
* current -> sets the delay -> sets the oscillation frequency. This is the VCO.
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt

.param VDDV=1.2
.param WINV=2u  LINV=0.13u
.param WSTV=1u  LSTV=0.13u

Vdd   vdd   0 {VDDV}
Vctrl vctrl 0 0.6

* --- bias: mirror vctrl's tail current up to a PMOS head bias vbp ---
XMpr vbp vbp   vdd vdd sg13_lv_pmos w={WSTV} l={LSTV} ng=1 m=1
XMnr vbp vctrl 0   0   sg13_lv_nmos w={WSTV} l={LSTV} ng=1 m=1

* --- one current-starved inverter stage ---
.subckt cs_inv in out vdd vbp vctrl
XMps nph vbp   vdd vdd sg13_lv_pmos w={WSTV} l={LSTV} ng=1 m=1
XMpu out in    nph vdd sg13_lv_pmos w={WINV} l={LINV} ng=1 m=1
XMnd out in    npl 0   sg13_lv_nmos w={WINV} l={LINV} ng=1 m=1
XMns npl vctrl 0   0   sg13_lv_nmos w={WSTV} l={LSTV} ng=1 m=1
.ends

* --- 7-stage ring ---
X1 n1 n2 vdd vbp vctrl cs_inv
X2 n2 n3 vdd vbp vctrl cs_inv
X3 n3 n4 vdd vbp vctrl cs_inv
X4 n4 n5 vdd vbp vctrl cs_inv
X5 n5 n6 vdd vbp vctrl cs_inv
X6 n6 n7 vdd vbp vctrl cs_inv
X7 n7 n1 vdd vbp vctrl cs_inv

.ic v(n1)=0

.control
  tran 2p 60n uic
  * does it swing? (rail-to-rail => oscillating)
  meas tran vmax MAX v(n1) from=10n to=60n
  meas tran vmin MIN v(n1) from=10n to=60n
  * 10 periods from rising 0.6V crossings, after startup
  meas tran per10 TRIG v(n1) VAL=0.6 RISE=2 TARG v(n1) VAL=0.6 RISE=12
  let freq = 10/per10
  print vmax vmin per10 freq
  wrdata /work/n1.csv v(n1)
.endc
.end
